US08003647B2
(3-Benzyloxy-4-methylphenyl)methanol
To a suspension of lithium aluminum hydride in diethyl ether (50 mL) was added dropwise a solution of 3-Benzyloxy-4-methyl-benzoic acid benzyl ester (7.5 g) in diethyl ether (11 mL) under argon atmosphere at 0° C., and this mixture was stirred at room temperature for 6 hours. To this reaction mixture was added dropwise water (3.2 mL), and then Celite was added to this mixture and filtered. This filtrate was concentrated to give title compounds as a mixture of benzyl alcohol (7.0 g).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-Benzyloxy-4-methyl-benzoic acid benzyl ester | 7.5 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C)OCC1=CC=CC=C1)=O | C22H20O3
reactant | water | 3.2 mL | O | H2O
reactant | benzyl alcohol | 7.0 g | C(C1=CC=CC=C1)O | C7H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 11 mL | C(C)OCC | C4H10O
product | (3-Benzyloxy-4-methylphenyl)methanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1C)CO | C15H16O2
